US06956050B2
STEP 2. 1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-2,4-diphenyl-1H-imidazole
A mixture of 1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-2-iodo-4-phenyl-1H-imidazole (594 mg, 1.2 mmol), phenylboronic acid (287 mg, 2.4 mmol), 2M aqueous K2CO3 (3 mL) and bis(triphenylphosphine) palladium(II) chloride (165 mg, 0.24 mmol) in dimethoxyethane (10 mL) was heated at 90° C. for 16 h. After cooling, insoluble materials were removed by Celite pad and the filtrate was washed with 2N NaOH and brine, dried over (MgSO4) and concentrated under reduced pressure. Purification by flash column chromatography on silica gel eluting with hexane/ethyl acetate (gradient elution from 30:1 to 10:1) to afford 390 mg (73%) of the title compound as pale yellow amorphous: 1H-NMR (CDCl3)δ0.00 (6H, s), 0.89 (9H, s), 2.87 (2H, t, J=6.6 Hz), 3.86 (2H, t, J=6.6 Hz), 7.18-7.33 (7H, m), 7.39-7.52 (5H, m), 7.82 (1H, s), 7.89-7.93 (2H, m).

reactant | 1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-2-iodo-4-phenyl-1H-imidazole | 1.2 mmol, 594 mg | [Si](C)(C)(C(C)(C)C)OCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)I | C23H29IN2OSi
reactant | phenylboronic acid | 2.4 mmol, 287 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 2M, 3 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethoxyethane | 10 mL | C(OC)COC | C4H10O2
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.24 mmol, 165 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-2,4-diphenyl-1H-imidazole | 390 mg, 73% | [Si](C)(C)(C(C)(C)C)OCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N2OSi
